US05212310
A slurry of 3-Amino-2-cyanopyridine (200 mg) and urea (400 mg) in 2-(2-ethoxyethoxy)ethanol (0.5 mL) was gradually heated to about 205° C., and maintained at 205° C. for 10 min. Heating was ceased and 6 mL of hot water was carefully added while shaking the mixture. The mixture was vacuum filtered to collect the precipitate. The precipitate was washed with water and ethyl acetate and allowed to dry to yield 4-Amino-pyrido[2,3-e]pyrimidin-2-one as a light yellow solid, m.p. >300° C.

reactant | 3-Amino-2-cyanopyridine | 200 mg | NC=1C(=NC=CC1)C#N | C6H5N3
reactant | urea | 400 mg | NC(=O)N | CH4N2O
reactant | water | 6 mL | O | H2O
solvent | 2-(2-ethoxyethoxy)ethanol | 0.5 mL | C(C)OCCOCCO | C6H14O3
product | 4-Amino-pyrido[2,3-e]pyrimidin-2-one | NC1=NC(NC2=C1N=CC=C2)=O | C7H6N4O
